US06214873B1
(3) Synthesis of 2-acetamido-1,3-diacetoxy-2-(2-(4-formylphenyl)ethyl)propane
To a solution of 2-acetamido-1, 3-diacetoxy-2-(2-phenylethyl)propane (10 g) in anhydrous dichloromethane (150 ml) were added titanium tetrachloride (15.4 ml) and dichloromethyl methyl ether (5.63 ml) under a nitrogen atmosphere at −15° C. The mixture was stirred at room temperature for 2 hours, poured into ice water and extracted with chloroform. The chloroform layer was washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; diisopropyl ether: ethyl acetate =1:1) to give the title compound (5.1 g) as a white solid, melting point 98-100° C.

reactant | 2-acetamido-1, 3-diacetoxy-2-(2-phenylethyl)propane | 10 g | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCC1=CC=CC=C1 | C17H23NO5
reactant | dichloromethyl methyl ether | 5.63 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 15.4 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-acetamido-1,3-diacetoxy-2-(2-(4-formylphenyl)ethyl)propane | 5.1 g | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCC1=CC=C(C=C1)C=O | C18H23NO6
